US04359423
Benzyl 3-oxo-5-phenylpentanoate
Ethyl 3-oxo-5-phenylpentanoate (64.2 g, 0.29 mole) was heated between 190° and 210° C. under nitrogen with benzyl alcohol (28.9 ml, 0.28 mole) for 6 hours, the ethanol formed being distilled out of the reaction mixture. The resulting pale yellow oil was essentially pure product, slightly contaminated by starting materials, n.m.r. δ (CCl4) 7.23 (5H, s), 7.06 (5H, s), 5.03 (2H, s), 3.23 (2H, s) and 2.73 (4H, s).

reactant | Ethyl 3-oxo-5-phenylpentanoate | 0.29 mole, 64.2 g | O=C(CC(=O)OCC)CCC1=CC=CC=C1 | C13H16O3
reactant | benzyl alcohol | 0.28 mole, 28.9 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | ethanol | C(C)O | C2H6O
product | Benzyl 3-oxo-5-phenylpentanoate | O=C(CC(=O)OCC1=CC=CC=C1)CCC1=CC=CC=C1 | C18H18O3
